US06235731B1
2 ) Synthesis of 1-[4-(aminomethyl)benzyl]-4-benzylpiperidine dihydrochloride
To 5.77 g (14.6 mM) of 1-[4-[N-(tert-butoxycarbonyl)aminomethyl]benzyl]-4-benzylpiperidine was added 10 ml (120 mM) of 12N-hydrochloric acid at room temperature and the mixture was stirred at the prevailing temperature for one hour. After addition of ethanol, the mixture was concentrated under reduced pressure and ethanol and diethyl ether were added to the residue. The resulting crystal crop was harvested by filtration and rinsed with ethanol and diethyl ether to provide the title compound as white crystals.

reactant | 1-[4-[N-(tert-butoxycarbonyl)aminomethyl]benzyl]-4-benzylpiperidine | 14.6 mM, 5.77 g | C(C)(C)(C)OC(=O)NCC1=CC=C(CN2CCC(CC2)CC2=CC=CC=C2)C=C1 | C25H34N2O2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 1-[4-(aminomethyl)benzyl]-4-benzylpiperidine dihydrochloride | Cl.Cl.NCC1=CC=C(CN2CCC(CC2)CC2=CC=CC=C2)C=C1 | InChI=1S/C20H26N2.2ClH/c21-15-19-6-8-20(9-7-19)16-22-12-10-18(11-13-22)14-17-4-2-1-3-5-17;;/h1-9,18H,10-16,21H2;2*1H
